US05387710
A mixture of 5-methoxy-N-methoxycarbonylindan-2-amine (0.25 g) and 47% hydrobromic acid (20 ml) was refluxed for 4 hours. After cooling, the mixture was concentrated in vacuo. Toluene was added to the residue and the whole was concentrated in vacuo to dryness to give 5-hydroxyindan-2-amine hydrobromide (0.26 g).

reactant | 5-methoxy-N-methoxycarbonylindan-2-amine | 0.25 g | COC=1C=C2CC(CC2=CC1)NC(=O)OC | C12H15NO3
reactant | hydrobromic acid | 20 ml | Br | BrH
product | 5-hydroxyindan-2-amine hydrobromide | 0.26 g | Br.OC=1C=C2CC(CC2=CC1)N | InChI=1S/C9H11NO.BrH/c10-8-3-6-1-2-9(11)5-7(6)4-8;/h1-2,5,8,11H,3-4,10H2;1H
